US04122274
3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one (via 2-aminopyridine + ethoxymethylenecyanoacetate + Al (N3)3 without isolation of intermediates)
Aluminum chloride (1.73 g., 12.96 mmoles) was added to tetrahydrofuran (45 ml.) at -20°. Sodium azide (2.52 g., 38.71 mmoles) was then added and the mixture heated under reflux for 40 minutes. To this mixture was added 2-aminopyridine (1.0 g., 10.62 mmoles) and ethyl ethoxymethylenecyanoacetate (1.8 g., 10.62 mmoles). The mixture was heated under reflux for 18 hours. The mixture was concentrated and the residue treated with water (50 ml.). The mixture was acidified to pH 3 with 6N hydrochloric acid. The solid material was collected and suspended in 3% aqueous sodium bicarbonate. The mixture was heated under reflux for 5 minutes, filtered, and the filtrate acidified to pH 4 with 6N hydrochloric acid. The precipitate was recrystallized from N,N-dimethylformamide to give the title compound (0.35 g., 15.4%), m.p. 312°-313° (decomp).

reactant | Aluminum chloride | 12.96 mmoles, 1.73 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Sodium azide | 38.71 mmoles, 2.52 g | [N-]=[N+]=[N-].[Na+]
reactant | 2-aminopyridine | 10.62 mmoles, 1.0 g | NC1=NC=CC=C1 | C5H6N2
reactant | ethyl ethoxymethylenecyanoacetate | 10.62 mmoles, 1.8 g | C(C)OC=C(C(=O)OCC)C#N | C8H11NO3
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | 3-(1H-tetrazol-5-yl)-4H-pyrido[1,2-a]pyrimidin-4-one | 0.35 g, 15.4% | N1N=NN=C1C1=CN=C2N(C1=O)C=CC=C2 | C9H6N6O
